US07897762B2
Concentrated nitric acid (8.8 g, 91 mmol) was added drop wise over 30 min to a stirred solution of 2-chloro-4-fluoro-phenylamine (12 g, 82.3 mmol) in conc H2SO4 acid (100 mL) at −10° C. The mixture was stirred at that temperature for 10 min. Then the reaction mixture was poured into cooled EtOAc, and ice water was added. The organic layer was separated and washed with brine and saturated NaHCO3 solution, dried (MgSO4) and concentrated in vacuo. Recrystallization (ethyl ether) provided 2-chloro-4-fluoro-5-nitroaniline (5.0 g, 32% yield). 1H NMR (400 MHz, DMSO-d6): δ7.59 (d, J=11.2 Hz, 1 H), 7.48 (d, J=7.2 Hz, 1 H), 5.84 (s, 2 H).

reactant | nitric acid | 91 mmol, 8.8 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-4-fluoro-phenylamine | 82.3 mmol, 12 g | ClC1=C(C=CC(=C1)F)N | C6H5ClFN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 2-chloro-4-fluoro-5-nitroaniline | 5.0 g, 32% yield | ClC1=C(N)C=C(C(=C1)F)[N+](=O)[O-] | C6H4ClFN2O2
